US06884801B1
2-Nitrobenzamide (2.5 g, 15 mmol) was dissolved in dimethylformamide-dimethylacetal (10 mL) and heated to 100° C. for 1 hour. Upon cooling, the reaction mixture was placed in a freezer at −23° C. overnight. The white precipitate was collected by filtration and rinsed with hexane to provide N-[(dimethylamino)methylene]-2-nitrobenzamide (3.06 g), which was used without further purification.

reactant | 2-Nitrobenzamide | 15 mmol, 2.5 g | [N+](=O)([O-])C1=C(C(=O)N)C=CC=C1 | C7H6N2O3
reactant | dimethylformamide-dimethylacetal | 10 mL | COC(N(C)C)OC | C5H13NO2
product | N-[(dimethylamino)methylene]-2-nitrobenzamide | 3.06 g | CN(C)C=NC(C1=C(C=CC=C1)[N+](=O)[O-])=O | C10H11N3O3
